US09238631B2
a) 5-(Benzyloxy)-2-(bromomethyl)pyridine
A mixture of 540 mg (2.51 mmol) 5-benzyloxy-2-pyridinemethanol (prepared according to J. Med. Chem. 1977, 20, 1258-1262), 536 mg N-bromo succinimide (3.01 mmol), and 1.2 g polymer bound triphenylphosphine (loading approx. 3 mmol/g, approx. 3.3 mmol) in dichloromethane (40 mL) was stirred overnight at room temperature. All solids were removed by filtration, and the filtrate was washed with aqueous sodium bicarbonate and water, and than concentrated in vacuo. The crude product (540 mg of a slightly pink solid, 79% crude yield) was used without further purification.

reactant | 5-benzyloxy-2-pyridinemethanol | 2.51 mmol, 540 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CO | C13H13NO2
reactant | N-bromo succinimide | 3.01 mmol, 536 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | approx. 3.3 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-(Benzyloxy)-2-(bromomethyl)pyridine | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CBr | C13H12BrNO
